data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_161396_0,[C:1]([C:5](=[C:7]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])[O:8][H:10])([C:6]([C:2]([H:13])([H:14])[H:15])=[O:9])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:5]([C:6]([C:2]([H:13])([H:14])[H:15])=[O:9])([O:8][H:10])[C:7]1([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21],52.84365749998557
MR_393768_2,[C:1]([N:5]([C:2]([C:4]([H:19])([H:20])[H:21])([C:6]([C:3]([H:16])([H:17])[H:18])([N:7]([H:14])[H:15])[O:9][H:10])[H:13])[H:11])(=[O:8])[H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:5]([C:2]([C:4]([H:19])([H:20])[H:21])([C:6]([N:7]([H:14])[H:15])=[O:9])[H:13])[H:11])([O:8][H:10])[H:12],72.57100249997308
MR_167244_0,[C:1]([C:3](=[C:5]([H:15])[H:16])[O:6][C:2]([H:12])([H:13])[H:14])([N:4]([H:10])[H:11])([O:7][H:8])[H:9]>>[C:1]([C:3](=[C:5]([H:15])[H:16])[H:9])([N:4]([H:10])[H:11])([O:6][C:2]([H:12])([H:13])[H:14])[O:7][H:8],65.60198750001888
MR_487342_1,[C:1]1([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[C:3]([H:13])([H:14])[C:8]1([N:7]([C:2](=[O:9])[H:12])[C:4]([H:15])([H:16])[H:17])[O:10][H:11]>>[C:1]1([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[C:2]([O:9][H:11])([H:12])[N:7]([C:4]([H:15])([H:16])[H:17])[C:8](=[O:10])[C:3]1([H:13])[H:14],58.762237499988
MR_59629_1,[C:1]([C:4]([N:3]([C:2]([H:11])([H:12])[H:13])[H:8])([O:6][H:7])[H:10])(=[O:5])[H:9]>>[C:1]([C:4]([N:3]([C:2]([H:11])([H:12])[H:13])[H:8])=[O:6])([O:5][H:7])([H:9])[H:10],34.26652000001894
MR_451639_0,[C@:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[N:4]([H:8])[O:7][C:5]([C:2]([H:11])([H:12])[H:13])=[C:6]1[H:10]>>[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:6](/[C@:5]1([C:2]([H:11])([H:12])[H:13])[N:4]([H:8])[O:7]1)[H:10])[H:9],68.92397249997828
MR_524240_0,[C@:1](/[C:3]([C:2]([H:15])([H:16])[H:17])=[C:6](/[N:5]([H:12])[H:13])[H:14])([N:4]([H:10])[H:11])([O:7][H:8])[H:9]>>[C@@:1]1([N:4]([H:10])[H:11])([H:9])[C:3]([C:2]([H:15])([H:16])[H:17])([O:7][H:8])[C@:6]1([N:5]([H:12])[H:13])[H:14],56.06586999998285
MR_615305_0,[C:1](/[C:5](=[C:2](\[N:3]([H:8])[H:9])[O:7][C:4](=[C:6]([H:15])[H:16])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:2]([N:3]([H:8])[H:9])=[O:7])([C:4](=[C:6]([H:15])[H:16])[H:10])[H:11])([H:12])([H:13])[H:14],51.50206249998419
MR_65047_0,[C:1]([O:7][C:5]([C:2]([H:11])([H:12])[H:13])=[C:6]([C:3]([H:14])([H:15])[H:19])[C:4]([H:16])([H:17])[H:18])([H:8])([H:9])[H:10]>>[C:1]([C:6]([C:3]([H:14])([H:15])[H:19])([C:4]([H:16])([H:17])[H:18])[C:5]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:8])([H:9])[H:10],70.60755499997228
MR_300209_1,[C:1](=[C:3]([O:5][H:8])[N:6]([C:2]([H:12])([H:13])[H:14])[C:4](=[O:7])[H:11])([H:9])[H:10]>>[C:1](/[C:3]([O:5][H:8])=[N:6]/[C:2]([H:12])([H:13])[H:14])([C:4](=[O:7])[H:11])([H:9])[H:10],53.11536500001296
MR_247162_1,[C:1]([C:2]1([N:4]([H:13])[H:14])[C:5]2([H:15])[C:6]1([H:16])[C:7]2([H:17])[H:18])([N:3]([H:11])[H:12])([O:8][H:9])[H:10]>>[C:1](/[C:2]([N:4]([H:13])[H:14])=[C:5](/[C:6](=[C:7]([H:17])[H:18])[H:16])[H:15])([N:3]([H:11])[H:12])([O:8][H:9])[H:10],43.81644249998445
MR_231324_0,[C:1](\[C:3]([H:16])([H:17])[H:18])([C:5]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([N:7]([H:11])[H:12])[N:8]([H:10])[H:13])=[N:6]\[H:9]>>[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:5]([N:7]([H:11])[H:12])=[N:8]/[H:13])[N:6]([H:9])[H:10],46.28188999996624
MR_168544_0,[C:1]([C:3]([C:4]([C:2]([H:15])([H:16])[H:17])[C:5]([N:6]([H:10])[H:11])=[C:7]([H:18])[H:19])[O:8][H:9])([H:12])([H:13])[H:14]>>[C:1]([C@@:3]1([O:8][H:9])[C:4]([C:2]([H:15])([H:16])[H:17])=[C:5]([N:6]([H:10])[H:11])[C:7]1([H:18])[H:19])([H:12])([H:13])[H:14],40.77369499999776
MR_618305_1,[C:1](/[C:4](=[C:7](/[N:6]([H:10])[H:11])[H:12])[O:9]/[C:5]([C:2]([H:17])([H:18])[H:19])=[C:8](\[C:3]([H:20])([H:21])[H:22])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([C:7]([N:6]([H:10])[H:11])([H:12])[H:20])[C:5]([C:2]([H:17])([H:18])[H:19])([C:8](=[C:3]([H:21])[H:22])[H:13])[O:9]1)([H:14])([H:15])[H:16],57.78333749999831
MR_215693_1,[C@:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7]/[H:10])([C:4](=[C:5]([H:15])[H:16])[H:11])([O:6][H:8])[H:9]>>[C:1](=[C:3](\[C:2]([H:12])([H:13])[H:14])[N:7]([C:4](=[C:5]([H:15])[H:16])[H:11])[H:10])(\[O:6][H:8])[H:9],70.29192250002012
MR_498772_2,[C:1](/[C:2](=[N:8]/[H:20])[H:13])([C:5]([C:3]([C:4]([H:21])([H:22])[H:23])([O:9][H:11])[H:14])([N:7]([H:17])[H:18])[O:10][H:19])([N:6]([H:15])[H:16])[H:12]>>[C:1]([C:2]([C:3]([C:4]([H:21])([H:22])[H:23])([O:9][H:11])[H:14])([N:8]([H:19])[H:20])[H:13])([C:5]([N:7]([H:17])[H:18])=[O:10])([N:6]([H:15])[H:16])[H:12],61.422210000013706
MR_152910_0,[C:1](/[C:2]([N:3]([H:8])[H:9])=[N:5]\[H:10])([C:4](=[O:7])[H:11])=[O:6]>>[C:1]1(=[O:6])[C@:4](/[C:2]([N:3]([H:8])[H:9])=[N:5]\[H:10])([H:11])[O:7]1,47.43398000001804
MR_509127_1,[C:1]([O:5][N:2](/[C:3]([N:4]([H:8])[H:9])=[N:6]\[H:10])[H:7])([H:11])([H:12])[H:13]>>[C:1]([O:5][N:6](/[C:3](=[N:2]\[H:7])[N:4]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13],62.96962499999481
